US09399647B2
Cyclopropyl-(2-methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-methyl-amine (Compound 4)
To a stirring suspension of compound 4-Chloro-2-methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine (1.0 g, 0.0037 mol) and cyclopropyl methylamine hydrochloride (1.18 g, 0.111 mol) in methanol (100 ml) was added TEA (3.1 ml, 0.022 mol) at 0-5° C. Reaction mixture was then warmed to room temperature and stirred for about 20 h. After completion of the reaction (monitored by TLC) volatilities were removed under vacuum and solid residue obtained was diluted with ice-water solution (200 ml). Aqueous phase was extracted with DCM (2×250 ml). Combined organic layer was washed with brine solution, dried and concentrated on rotary evaporator to get crude material which was purified by prep HPLC to get the desired title compound cyclopropyl-(2-methoxymethyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-methyl-amine(N-cyclopropyl-2-(methoxymethyl)-N-methyl-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-4-amine) as a yellow solid. Yield: (600 mg, 54.5%); 1H), 2.90-2.87 (m, 2H), 2.83-2.80 (m, 2H), 1.88-1.82 (m, 2H), 1.72-1.68 (m, 2H), 0.76 1H NMR (400 MHz, DMSO) δ ppm=4.41 (s, 2H), 3.36 (s, 3H), 3.30 (s, 3H), 2.97-2.92 (m, −0.70 (m, 2H), 0.40-0.36 (m, 2H); LCMS: [M+H]=304.40; HPLC (purity): 99.61% at 236 nm, 99.45% at 220 nm, 99.32% at 254 nm.

reactant | 4-Chloro-2-methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidine | 0.0037 mol, 1.0 g | ClC=1C2=C(N=C(N1)COC)SC1=C2CCCC1 | C12H13ClN2OS
reactant | cyclopropyl methylamine hydrochloride | 0.111 mol, 1.18 g | Cl.C1(CC1)NC
solvent | methanol | 100 ml | CO | CH4O
product | Cyclopropyl-(2-methoxymethyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-4-yl)-methyl-amine | C1(CC1)N(C)C=1C2=C(N=C(N1)COC)SC1=C2CCCC1 | C16H21N3OS
